R1 ( net128 net474)  R=7.0E4
T2 ( net474 net412 vdd! vdd!)  pfet  L=4.81E-6 W=2.82E-6
T3 ( net268 net412 vdd! vdd!)  pfet  L=4.81E-6 W=2.82E-6
T4 ( net134 net474 net268 vdd!)  pfet  L=4.81E-6 W=2.82E-6
T5 (net361 net343 net343 0) nfet L=0.63E-6 W=7.26E-6
T6 ( net353 net353 0 0)  nfet  L=5.91E-6 W=1.14E-6
T7 ( net311 net353 0 0)  nfet  L=5.91E-6 W=1.14E-6
R8 ( net311 net310)  R=6.8E6
R9 (net178 vdd!) R=0.9E0
C10 (net241 net240) C=9.3E-13
R11 ( net187 net73)  R=6.5E3
T12 ( net73 net545 vdd! vdd!)  pfet  L=4.02E-6 W=4.51E-6
T13 ( net53 net545 vdd! vdd!)  pfet  L=4.02E-6 W=4.51E-6
T14 ( net17 net73 net53 vdd!)  pfet  L=4.02E-6 W=4.51E-6
T15 (net329 net582 net582 0) pfet L=2.42E-6 W=7.89E-6
T16 (net224 net29 net29 0) pfet L=4.03E-6 W=3.30E-6
R17 ( net12 net633)  R=2.4E6
T18 ( net633 net633 0 0)  nfet  L=4.65E-6 W=2.37E-6
T19 ( net411 net633 0 0)  nfet  L=4.65E-6 W=2.37E-6
C20 (net284 net360) C=8.5E-6
R21 ( net87 net162)  R=8.5E4
T22 ( net162 net162 vdd! vdd!)  pfet  L=4.73E-6 W=2.91E-6
T23 ( net551 net162 vdd! vdd!)  pfet  L=4.73E-6 W=2.91E-6
T24 (net264 net574 net574 0) pfet L=3.82E-6 W=5.60E-6
R25 ( net42 net107)  R=7.8E3
T26 ( net107 net291 0 0)  nfet  L=3.85E-6 W=2.06E-6
T27 ( net180 net291 0 0)  nfet  L=3.85E-6 W=2.06E-6
T28 ( net84 net107 net180 0)  nfet  L=3.85E-6 W=2.06E-6
T29 (net436 net76 net76 0) pfet L=4.72E-6 W=9.59E-6
R30 ( net62 net21)  R=9.5E3
T31 ( net21 net196 0 0)  nfet  L=7.96E-6 W=2.73E-6
T32 ( net319 net196 0 0)  nfet  L=7.96E-6 W=2.73E-6
T33 ( vdd! net21 net196 0)  nfet  L=7.96E-6 W=2.73E-6
R34 (net155 vdd!) R=7.2E0
R35 ( net116 net630)  R=7.6E4
T36 ( net630 net630 0 0)  nfet  L=1.60E-6 W=5.87E-6
T37 ( net403 net630 0 0)  nfet  L=1.60E-6 W=5.87E-6
T38 (net399 net248 net248 0) pfet L=3.66E-6 W=0.62E-6
R39 (0 net445) R=5.7E6
T40 (net514 net213 net213 0) pfet L=5.42E-6 W=6.43E-6
R41 ( net101 net310)  R=2.3E4
T42 ( net310 net310 vdd! vdd!)  pfet  L=8.23E-6 W=3.75E-6
T43 ( net574 net310 vdd! vdd!)  pfet  L=8.23E-6 W=3.75E-6
R44 (0 net476) R=3.7E3
R45 ( net184 net529)  R=1.4E5
T46 ( net529 net529 net287 0)  nfet  L=4.23E-6 W=8.30E-6
T47 ( net287 net38 0 0)  nfet  L=4.23E-6 W=8.30E-6
T48 ( net38 net38 0 0)  nfet  L=4.23E-6 W=8.30E-6
T49 ( net141 net529 net38 0)  nfet  L=4.23E-6 W=8.30E-6
C50 (0 net376) C=4.2E-14
C51 (net404 net199) C=2.4E-13
R52 ( net279 net404)  R=0.6E1
T53 ( net404 net404 net267 0)  nfet  L=3.43E-6 W=5.06E-6
T54 ( net267 net354 0 0)  nfet  L=3.43E-6 W=5.06E-6
T55 ( net354 net354 0 0)  nfet  L=3.43E-6 W=5.06E-6
T56 ( net248 net404 net354 0)  nfet  L=3.43E-6 W=5.06E-6
R57 (vdd! net538) R=2.9E4
C58 (net154 net213) C=3.3E-12
R59 (net39 net209) R=1.0E0
R60 (net358 vdd!) R=0.8E6
R61 (0 net451) R=8.0E3
C62 (net184 0) C=1.5E-9
T63 ( net170 net170 0 0)  nfet  L=3.84E-6 W=1.52E-6
T64 ( net425 net170 0 0)  nfet  L=3.84E-6 W=1.52E-6
R65 ( net425 net154)  R=9.1E5
R66 (net612 net281) R=6.3E5
C67 (vdd! net555) C=8.6E-6
C68 (net319 0) C=4.2E-13
R69 (net431 net586) R=1.1E3
R70 (net401 net384) R=1.3E6
R71 ( net602 net622)  R=4.5E3
T72 ( net622 net622 net29 0)  nfet  L=0.80E-6 W=0.26E-6
T73 ( net29 net448 0 0)  nfet  L=0.80E-6 W=0.26E-6
T74 ( net448 net448 0 0)  nfet  L=0.80E-6 W=0.26E-6
T75 ( net396 net622 net448 0)  nfet  L=0.80E-6 W=0.26E-6
T76 (net224 net384 net384 0) nfet L=8.90E-6 W=3.10E-6
C77 (0 net450) C=7.7E-10
T78 ( net482 net482 vdd! vdd!)  pfet  L=2.68E-6 W=7.21E-6
T79 ( net9 net482 vdd! vdd!)  pfet  L=2.68E-6 W=7.21E-6
R80 ( net9 net455)  R=5.3E3
R81 (net266 net246) R=9.2E2
R82 ( vdd! net471)  R=6.5E6
T83 ( net471 net539 vdd! vdd!)  pfet  L=6.69E-6 W=6.69E-6
T84 ( net133 net539 vdd! vdd!)  pfet  L=6.69E-6 W=6.69E-6
T85 ( 0 net471 net539 vdd!)  pfet  L=6.69E-6 W=6.69E-6
T86 (net16 vdd! vdd! 0) nfet L=2.11E-6 W=9.80E-6
R87 (net205 0) R=6.4E4
R88 ( net586 net612)  R=3.1E6
T89 ( net612 net125 0 0)  nfet  L=0.85E-6 W=7.52E-6
T90 ( net343 net125 0 0)  nfet  L=0.85E-6 W=7.52E-6
T91 ( net126 net612 net343 0)  nfet  L=0.85E-6 W=7.52E-6
T92 (net341 vdd! vdd! 0) nfet L=3.06E-6 W=0.27E-6
T93 (vdd! net131 net131 0) pfet L=0.27E-6 W=4.09E-6
R94 ( net394 net80)  R=8.2E6
T95 ( net80 net441 0 0)  nfet  L=8.45E-6 W=3.73E-6
T96 ( net577 net441 0 0)  nfet  L=8.45E-6 W=3.73E-6
T97 ( net199 net80 net577 0)  nfet  L=8.45E-6 W=3.73E-6
T98 (vdd! net350 net350 0) nfet L=6.35E-6 W=2.68E-6
T99 (net647 net90 net90 0) nfet L=6.68E-6 W=8.54E-6
R100 ( net376 net607)  R=3.0E2
T101 ( net607 net607 net40 vdd!)  pfet  L=1.91E-6 W=0.81E-6
T102 ( net40 net318 vdd! vdd!)  pfet  L=1.91E-6 W=0.81E-6
T103 ( net318 net318 vdd! vdd!)  pfet  L=1.91E-6 W=0.81E-6
T104 ( net300 net607 net318 vdd!)  pfet  L=1.91E-6 W=0.81E-6
T105 (vdd! net120 net120 0) nfet L=0.92E-6 W=5.73E-6
C106 (net201 net186) C=0.9E-9
T107 ( net561 net561 vdd! vdd!)  pfet  L=4.96E-6 W=2.28E-6
T108 ( net495 net561 vdd! vdd!)  pfet  L=4.96E-6 W=2.28E-6
R109 ( net495 net206)  R=4.9E5
R110 (net575 net627) R=9.6E1
R111 ( net433 net512)  R=5.6E0
T112 ( net512 net427 vdd! vdd!)  pfet  L=9.59E-6 W=8.86E-6
T113 ( net386 net427 vdd! vdd!)  pfet  L=9.59E-6 W=8.86E-6
T114 ( net521 net512 net386 vdd!)  pfet  L=9.59E-6 W=8.86E-6
T115 (net364 net193 net193 0) pfet L=8.31E-6 W=6.21E-6
T116 (net147 vdd! vdd! 0) nfet L=6.42E-6 W=3.48E-6
R117 ( net359 net138)  R=5.5E1
T118 ( net138 net138 net106 vdd!)  pfet  L=3.34E-6 W=5.75E-6
T119 ( net106 net348 vdd! vdd!)  pfet  L=3.34E-6 W=5.75E-6
T120 ( net348 net348 vdd! vdd!)  pfet  L=3.34E-6 W=5.75E-6
T121 ( net543 net138 net348 vdd!)  pfet  L=3.34E-6 W=5.75E-6
T122 (net641 net128 net128 0) pfet L=3.29E-6 W=4.16E-6
T123 (vdd! vdd! vdd! 0) pfet L=9.85E-6 W=5.14E-6
C124 (0 net280) C=1.9E-7
T125 ( net117 net117 0 0)  nfet  L=2.80E-6 W=9.07E-6
T126 ( net345 net117 0 0)  nfet  L=2.80E-6 W=9.07E-6
R127 ( net345 net531)  R=3.7E5
T128 (net521 net418 net418 0) nfet L=6.42E-6 W=6.75E-6
T129 (net328 vdd! vdd! 0) pfet L=0.76E-6 W=3.88E-6
R130 ( net135 net116)  R=4.3E2
T131 ( net116 net363 0 0)  nfet  L=5.36E-6 W=6.31E-6
T132 ( net111 net363 0 0)  nfet  L=5.36E-6 W=6.31E-6
T133 ( vdd! net116 net363 0)  nfet  L=5.36E-6 W=6.31E-6
R134 (net23 net286) R=8.1E0
T135 ( net591 net591 0 0)  nfet  L=9.79E-6 W=1.31E-6
T136 ( net56 net591 0 0)  nfet  L=9.79E-6 W=1.31E-6
R137 ( net56 net229)  R=3.8E0
R138 (net79 net83) R=7.9E2
T139 (net248 net160 net160 0) nfet L=7.79E-6 W=9.70E-6
T140 (net541 net356 net356 0) pfet L=8.21E-6 W=6.66E-6
T141 (net419 net322 net322 0) nfet L=5.59E-6 W=3.69E-6
T142 (net328 net51 net51 0) pfet L=2.87E-6 W=6.08E-6
R143 ( net115 net392)  R=1.6E1
T144 ( net392 net392 0 0)  nfet  L=2.51E-6 W=7.85E-6
T145 ( vdd! net392 0 0)  nfet  L=2.51E-6 W=7.85E-6
C146 (net326 net444) C=6.3E-14
T147 (net210 net131 net131 0) nfet L=6.80E-6 W=3.41E-6
R148 ( net537 net624)  R=1.3E5
T149 ( net624 net224 0 0)  nfet  L=8.94E-6 W=7.54E-6
T150 ( net513 net224 0 0)  nfet  L=8.94E-6 W=7.54E-6
T151 ( net155 net624 net513 0)  nfet  L=8.94E-6 W=7.54E-6
T152 (0 net436 net436 0) pfet L=9.49E-6 W=8.66E-6
R153 ( net194 net571)  R=2.4E1
T154 ( net571 net629 0 0)  nfet  L=1.68E-6 W=1.13E-6
T155 ( net536 net629 0 0)  nfet  L=1.68E-6 W=1.13E-6
T156 ( vdd! net571 net629 0)  nfet  L=1.68E-6 W=1.13E-6
R157 (net445 net150) R=9.1E3
R158 ( net357 net645)  R=5.6E6
T159 ( net645 net645 net409 vdd!)  pfet  L=7.97E-6 W=3.89E-6
T160 ( net409 net375 vdd! vdd!)  pfet  L=7.97E-6 W=3.89E-6
T161 ( net375 net375 vdd! vdd!)  pfet  L=7.97E-6 W=3.89E-6
T162 ( net216 net645 net375 vdd!)  pfet  L=7.97E-6 W=3.89E-6
R163 (net327 0) R=9.8E4
C164 (net517 net279) C=5.7E-9
R165 ( net191 net147)  R=8.8E4
T166 ( net147 net147 net218 vdd!)  pfet  L=4.38E-6 W=7.75E-6
T167 ( net218 net430 vdd! vdd!)  pfet  L=4.38E-6 W=7.75E-6
T168 ( net430 net430 vdd! vdd!)  pfet  L=4.38E-6 W=7.75E-6
T169 ( net151 net147 net430 vdd!)  pfet  L=4.38E-6 W=7.75E-6
C170 (net468 net228) C=1.3E-5
R171 (net391 net169) R=5.0E2
T172 ( net359 net359 vdd! vdd!)  pfet  L=4.47E-6 W=8.42E-6
T173 ( net149 net359 vdd! vdd!)  pfet  L=4.47E-6 W=8.42E-6
R174 ( net149 net214)  R=1.8E4
T175 (net424 net283 net283 0) nfet L=1.98E-6 W=2.64E-6
C176 (net255 net399) C=0.3E-5
C177 (net472 net46) C=8.3E-5
T178 (net68 net122 net122 0) pfet L=3.19E-6 W=5.90E-6
R179 ( net18 net143)  R=6.4E2
T180 ( net143 net619 0 0)  nfet  L=2.21E-6 W=9.05E-6
T181 ( net286 net619 0 0)  nfet  L=2.21E-6 W=9.05E-6
T182 ( vdd! net143 net619 0)  nfet  L=2.21E-6 W=9.05E-6
T183 (vdd! net308 net308 0) pfet L=3.43E-6 W=8.97E-6
R184 ( net103 net322)  R=1.4E2
T185 ( net322 net596 0 0)  nfet  L=5.96E-6 W=6.04E-6
T186 ( net75 net596 0 0)  nfet  L=5.96E-6 W=6.04E-6
T187 ( vdd! net322 net75 0)  nfet  L=5.96E-6 W=6.04E-6
R188 (net337 net628) R=7.7E3
R189 ( net92 net226)  R=8.1E1
T190 ( net226 net398 0 0)  nfet  L=4.79E-6 W=2.88E-6
T191 ( net306 net398 0 0)  nfet  L=4.79E-6 W=2.88E-6
T192 ( vdd! net226 net398 0)  nfet  L=4.79E-6 W=2.88E-6
C193 (net604 0) C=1.5E-10
C194 (net52 net165) C=0.6E-5
T195 (net620 net113 net113 0) nfet L=1.87E-6 W=9.33E-6
R196 ( net69 net327)  R=0.9E6
T197 ( net327 net327 vdd! vdd!)  pfet  L=8.49E-6 W=8.36E-6
T198 ( net214 net327 vdd! vdd!)  pfet  L=8.49E-6 W=8.36E-6
T199 (net351 vdd! vdd! 0) pfet L=0.82E-6 W=0.25E-6
R200 (net176 net102) R=2.2E4
C201 (net271 net450) C=8.2E-12
R202 ( net113 net449)  R=8.6E2
T203 ( net449 net280 0 0)  nfet  L=8.98E-6 W=7.75E-6
T204 ( net421 net280 0 0)  nfet  L=8.98E-6 W=7.75E-6
T205 ( net185 net449 net421 0)  nfet  L=8.98E-6 W=7.75E-6
T206 (0 net552 net552 0) nfet L=9.06E-6 W=4.29E-6
R207 (net467 net581) R=6.7E4
R208 (net486 net51) R=7.4E0
T209 ( net87 net87 vdd! vdd!)  pfet  L=1.87E-6 W=9.94E-6
T210 ( net484 net87 vdd! vdd!)  pfet  L=1.87E-6 W=9.94E-6
R211 ( net484 net340)  R=5.4E2
C212 (net171 net14) C=3.5E-14
R213 ( net410 net89)  R=8.1E1
T214 ( net89 net89 vdd! vdd!)  pfet  L=5.47E-6 W=1.84E-6
T215 ( net576 net89 vdd! vdd!)  pfet  L=5.47E-6 W=1.84E-6
C216 (net31 net45) C=7.8E-12
R217 ( net544 net631)  R=9.2E0
T218 ( net631 net277 0 0)  nfet  L=5.26E-6 W=3.57E-6
T219 ( net52 net277 0 0)  nfet  L=5.26E-6 W=3.57E-6
T220 ( net621 net631 net52 0)  nfet  L=5.26E-6 W=3.57E-6
C221 (vdd! net6) C=1.6E-10
T222 (net278 net173 net173 0) pfet L=6.74E-6 W=8.27E-6
T223 (net466 net294 net294 0) nfet L=7.04E-6 W=3.65E-6
R224 ( net238 net252)  R=0.9E2
T225 ( net252 net70 0 0)  nfet  L=8.32E-6 W=5.94E-6
T226 ( net48 net70 0 0)  nfet  L=8.32E-6 W=5.94E-6
T227 ( net518 net252 net48 0)  nfet  L=8.32E-6 W=5.94E-6
C228 (net380 net552) C=8.5E-5
T229 (net325 net12 net12 0) nfet L=2.98E-6 W=5.13E-6
R230 ( net253 net110)  R=1.6E3
T231 ( net110 net485 0 0)  nfet  L=3.07E-6 W=3.49E-6
T232 ( net178 net485 0 0)  nfet  L=3.07E-6 W=3.49E-6
T233 ( net608 net110 net178 0)  nfet  L=3.07E-6 W=3.49E-6
T234 (net19 net161 net161 0) nfet L=9.05E-6 W=5.22E-6
C235 (vdd! net199) C=4.4E-12
R236 ( net437 net114)  R=2.5E4
T237 ( net114 net8 vdd! vdd!)  pfet  L=1.89E-6 W=4.90E-6
T238 ( net157 net8 vdd! vdd!)  pfet  L=1.89E-6 W=4.90E-6
T239 ( net13 net114 net157 vdd!)  pfet  L=1.89E-6 W=4.90E-6
T240 (net648 net476 net476 0) nfet L=3.82E-6 W=2.69E-6
T241 (net293 net620 net620 0) nfet L=9.99E-6 W=4.58E-6
R242 ( net30 net33)  R=1.1E4
T243 ( net33 net183 0 0)  nfet  L=9.79E-6 W=4.52E-6
T244 ( net524 net183 0 0)  nfet  L=9.79E-6 W=4.52E-6
T245 ( vdd! net33 net183 0)  nfet  L=9.79E-6 W=4.52E-6
R246 (net208 net211) R=5.7E0
T247 (vdd! net632 net632 0) pfet L=8.94E-6 W=9.55E-6
R248 ( net592 net153)  R=7.4E3
T249 ( net153 net153 0 0)  nfet  L=2.17E-6 W=7.36E-6
T250 ( net31 net153 0 0)  nfet  L=2.17E-6 W=7.36E-6
R251 (net488 net91) R=5.4E3
R252 ( net244 net154)  R=6.7E2
T253 ( net154 net400 vdd! vdd!)  pfet  L=1.76E-6 W=9.96E-6
T254 ( net520 net400 vdd! vdd!)  pfet  L=1.76E-6 W=9.96E-6
T255 ( 0 net154 net400 vdd!)  pfet  L=1.76E-6 W=9.96E-6
T256 (net646 net452 net452 0) nfet L=7.73E-6 W=3.82E-6
T257 (net201 net387 net387 0) nfet L=0.98E-6 W=4.41E-6
R258 ( net534 net498)  R=3.8E6
T259 ( net498 net498 net463 0)  nfet  L=7.12E-6 W=7.12E-6
T260 ( net463 net36 0 0)  nfet  L=7.12E-6 W=7.12E-6
T261 ( net36 net36 0 0)  nfet  L=7.12E-6 W=7.12E-6
T262 ( net518 net498 net36 0)  nfet  L=7.12E-6 W=7.12E-6
T263 (net618 net192 net192 0) nfet L=7.23E-6 W=7.49E-6
R264 (net556 net351) R=9.1E2
R265 ( net17 net46)  R=7.8E4
T266 ( net46 net46 vdd! vdd!)  pfet  L=3.63E-6 W=4.28E-6
T267 ( net76 net46 vdd! vdd!)  pfet  L=3.63E-6 W=4.28E-6
R268 (net525 net173) R=0.1E3
R269 (net66 net67) R=4.3E4
T270 (net616 net501 net501 0) nfet L=9.94E-6 W=2.70E-6
T271 (net248 net411 net411 0) nfet L=3.25E-6 W=7.20E-6
C272 (net503 net640) C=4.7E-12
R273 ( net134 net259)  R=2.8E2
T274 ( net259 net259 net39 vdd!)  pfet  L=7.29E-6 W=2.08E-6
T275 ( net39 net368 vdd! vdd!)  pfet  L=7.29E-6 W=2.08E-6
T276 ( net368 net368 vdd! vdd!)  pfet  L=7.29E-6 W=2.08E-6
T277 ( net500 net259 net368 vdd!)  pfet  L=7.29E-6 W=2.08E-6
C278 (net105 net307) C=5.6E-13
R279 ( net527 net637)  R=8.5E6
T280 ( net637 net637 0 0)  nfet  L=3.39E-6 W=9.05E-6
T281 ( net77 net637 0 0)  nfet  L=3.39E-6 W=9.05E-6
C282 (net628 net109) C=0.2E-9
T283 (net606 net617 net617 0) nfet L=9.77E-6 W=2.20E-6
C284 (net200 net210) C=8.5E-7
T285 (net521 net269 net269 0) nfet L=1.34E-6 W=8.25E-6
R286 ( net570 net92)  R=9.1E0
T287 ( net92 net580 0 0)  nfet  L=8.82E-6 W=5.55E-6
T288 ( net298 net580 0 0)  nfet  L=8.82E-6 W=5.55E-6
T289 ( net609 net92 net298 0)  nfet  L=8.82E-6 W=5.55E-6
T290 (net324 0 0 0) nfet L=9.69E-6 W=7.50E-6
T291 (net188 net423 net423 0) pfet L=7.68E-6 W=7.19E-6
T292 (net370 net572 net572 0) pfet L=0.93E-6 W=7.92E-6
R293 ( net506 net44)  R=8.0E5
T294 ( net44 net288 vdd! vdd!)  pfet  L=2.47E-6 W=3.02E-6
T295 ( net403 net288 vdd! vdd!)  pfet  L=2.47E-6 W=3.02E-6
T296 ( net206 net44 net403 vdd!)  pfet  L=2.47E-6 W=3.02E-6
T297 (net213 net466 net466 0) pfet L=7.07E-6 W=3.29E-6
R298 (net57 net248) R=3.4E6
T299 (net155 net352 net352 0) pfet L=1.26E-6 W=1.57E-6
T300 (0 net271 net271 0) nfet L=5.86E-6 W=8.95E-6
T301 (net351 net558 net558 0) pfet L=2.41E-6 W=0.47E-6
T302 (net231 net208 net208 0) nfet L=4.01E-6 W=3.33E-6
R303 (net67 net333) R=2.9E2
R304 (net606 net500) R=8.4E3
C305 (net214 net63) C=6.7E-5
T306 (net217 net615 net615 0) pfet L=3.64E-6 W=4.95E-6
T307 (net365 vdd! vdd! 0) pfet L=2.89E-6 W=6.50E-6
C308 (vdd! net274) C=7.8E-8
T309 (vdd! net239 net239 0) pfet L=3.27E-6 W=7.69E-6
R310 (vdd! net229) R=6.8E2
T311 (net274 net17 net17 0) nfet L=8.48E-6 W=2.48E-6
T312 (net470 net173 net173 0) pfet L=0.62E-6 W=7.28E-6
R313 (net301 net302) R=3.8E5
C314 (net255 net28) C=2.9E-11
T315 (net350 net618 net618 0) pfet L=6.98E-6 W=3.19E-6
T316 (net437 net597 net597 0) pfet L=7.19E-6 W=8.36E-6
C317 (net249 net206) C=9.5E-9
T318 (net491 net410 net410 0) pfet L=2.83E-6 W=8.67E-6
C319 (vdd! net396) C=8.1E-8
T320 (net281 net3 net3 0) nfet L=6.37E-6 W=5.97E-6
C321 (net96 net122) C=1.7E-7
T322 (net6 net317 net317 0) pfet L=6.95E-6 W=0.42E-6
T323 (net600 net599 net599 0) pfet L=6.52E-6 W=3.04E-6
T324 (net155 net504 net504 0) pfet L=6.84E-6 W=2.16E-6
R325 (net336 net244) R=9.5E6
T326 (net50 0 0 0) nfet L=2.13E-6 W=1.45E-6
T327 (net65 net600 net600 0) pfet L=9.82E-6 W=1.87E-6
C328 (net411 net60) C=3.1E-8
T329 (net10 net546 net546 0) pfet L=2.63E-6 W=4.25E-6
R330 (net192 net207) R=7.1E4
C331 (net536 net127) C=9.6E-5
T332 (0 vdd! vdd! 0) nfet L=5.92E-6 W=9.31E-6
T333 (net462 net321 net321 0) pfet L=2.24E-6 W=7.62E-6
R334 (net603 net331) R=8.9E4
C335 (net621 net628) C=6.4E-9
C336 (net341 net447) C=6.8E-10
T337 (0 net399 net399 0) nfet L=3.67E-6 W=8.90E-6
T338 (net156 net414 net414 0) nfet L=6.43E-6 W=6.54E-6
T339 (net100 net128 net128 0) nfet L=4.66E-6 W=1.01E-6
T340 (net358 vdd! vdd! 0) pfet L=1.26E-6 W=8.08E-6
R341 (net11 net261) R=2.8E5
T342 (net381 net500 net500 0) pfet L=7.52E-6 W=9.49E-6
C343 (net554 net326) C=8.3E-13
T344 (net634 net346 net346 0) nfet L=0.46E-6 W=5.21E-6
T345 (net391 net209 net209 0) pfet L=1.47E-6 W=0.40E-6
T346 (net285 net248 net248 0) nfet L=4.03E-6 W=6.18E-6
R347 (net568 net438) R=3.0E2
T348 (net158 net207 net207 0) pfet L=2.98E-6 W=2.98E-6
T349 (net265 vdd! vdd! 0) nfet L=4.25E-6 W=8.96E-6
T350 (net279 net536 net536 0) pfet L=5.25E-6 W=0.90E-6
R351 (net136 vdd!) R=5.8E0
T352 (net413 net500 net500 0) nfet L=0.45E-6 W=5.14E-6
C353 (0 net604) C=7.3E-7
C354 (net541 net17) C=2.3E-14
R355 (net51 0) R=8.2E3
T356 (net144 net399 net399 0) pfet L=8.49E-6 W=7.71E-6
T357 (net296 net583 net583 0) nfet L=4.82E-6 W=1.58E-6
T358 (net306 net199 net199 0) nfet L=9.26E-6 W=0.77E-6
C359 (net447 net477) C=0.9E-5
T360 (0 net197 net197 0) pfet L=4.18E-6 W=0.32E-6
T361 (net18 net12 net12 0) nfet L=5.41E-6 W=2.47E-6
T362 (vdd! net333 net333 0) nfet L=4.05E-6 W=4.80E-6
R363 (net78 net22) R=9.8E5
T364 (net181 net222 net222 0) pfet L=8.30E-6 W=0.71E-6
T365 (net271 net350 net350 0) pfet L=1.34E-6 W=8.25E-6
T366 (net561 net594 net594 0) nfet L=4.99E-6 W=8.04E-6
R367 (net388 net579) R=7.1E0
T368 (net374 net296 net296 0) pfet L=2.34E-6 W=1.51E-6
R369 (net397 net214) R=3.8E0
C370 (net128 net269) C=6.9E-9
R371 (net502 net530) R=2.4E3
C372 (net227 0) C=7.9E-13
R373 (net562 net470) R=6.2E1
T374 (0 net576 net576 0) nfet L=0.40E-6 W=5.03E-6
T375 (net150 net35 net35 0) pfet L=5.28E-6 W=1.54E-6
R376 (net623 net339) R=7.0E2
C377 (net167 net3) C=6.6E-8
T378 (net433 net329 net329 0) pfet L=0.32E-6 W=5.31E-6
R379 (net12 net238) R=1.3E5
T380 (net258 net231 net231 0) pfet L=9.44E-6 W=2.01E-6
C381 (net81 net121) C=7.9E-12
T382 (net141 net47 net47 0) pfet L=7.29E-6 W=8.92E-6
R383 (net621 net602) R=4.4E6
T384 (net489 net197 net197 0) nfet L=7.28E-6 W=6.78E-6
R385 (net573 net493) R=1.8E5
T386 (net467 net135 net135 0) pfet L=8.81E-6 W=3.70E-6
T387 (net229 net337 net337 0) nfet L=8.84E-6 W=9.96E-6
C388 (net282 net627) C=6.7E-13
T389 (net359 net24 net24 0) pfet L=7.89E-6 W=4.67E-6
R390 (net90 net628) R=5.9E4
C391 (net177 net225) C=7.6E-10
R392 (net378 net642) R=4.8E6
T393 (net118 net560 net560 0) nfet L=8.92E-6 W=1.41E-6
T394 (net176 net330 net330 0) pfet L=3.97E-6 W=4.43E-6
C395 (net176 net113) C=4.9E-13
T396 (net25 net99 net99 0) pfet L=4.33E-6 W=3.68E-6
C397 (net131 net488) C=1.5E-8
R398 (net81 net388) R=8.5E4
R399 (net121 net300) R=0.8E1
T400 (net444 net14 net14 0) nfet L=5.71E-6 W=3.70E-6
C401 (net41 net104) C=5.7E-12
T402 (net433 net397 net397 0) nfet L=2.45E-6 W=0.47E-6
T403 (net86 net109 net109 0) pfet L=1.31E-6 W=2.42E-6
C404 (vdd! net312) C=3.5E-7
T405 (net361 net470 net470 0) pfet L=5.86E-6 W=7.01E-6
T406 (0 net572 net572 0) pfet L=4.77E-6 W=5.62E-6
C407 (net4 net186) C=8.8E-10
C408 (net418 net83) C=6.9E-9
C409 (net121 net353) C=5.3E-9
C410 (net188 net470) C=8.2E-7
T411 (net163 net377 net377 0) pfet L=3.81E-6 W=6.62E-6
R412 (0 net87) R=8.1E4
T413 (0 net476 net476 0) pfet L=0.17E-6 W=4.81E-6
C414 (net254 net492) C=8.7E-6
R415 (net445 net213) R=7.8E3
C416 (net380 net124) C=9.3E-14
C417 (net13 net319) C=8.5E-14
R418 (net286 net42) R=0.4E4
R419 (net266 net25) R=9.5E5
T420 (net604 net332 net332 0) pfet L=9.00E-6 W=4.57E-6
C421 (net351 net241) C=5.5E-7
R422 (vdd! net208) R=2.8E4
R423 (net475 net459) R=8.6E5
T424 (net316 net505 net505 0) pfet L=0.82E-6 W=8.62E-6
T425 (net256 net413 net413 0) pfet L=2.24E-6 W=8.83E-6
C426 (vdd! net137) C=0.2E-10
T427 (net411 vdd! vdd! 0) nfet L=7.61E-6 W=9.83E-6
R428 (net547 0) R=2.8E4
C429 (0 net595) C=9.7E-5
T430 (net353 net319 net319 0) pfet L=7.49E-6 W=6.13E-6
T431 (net293 net443 net443 0) pfet L=6.09E-6 W=0.55E-6
R432 (net634 0) R=5.5E2
R433 (net422 net6) R=1.9E2
C434 (net582 net175) C=9.3E-9
T435 (net418 net120 net120 0) pfet L=5.69E-6 W=6.47E-6
T436 (net105 0 0 0) pfet L=4.78E-6 W=5.47E-6
T437 (net160 net129 net129 0) nfet L=7.20E-6 W=1.00E-6
R438 (net355 net626) R=9.8E4
C439 (net95 net169) C=9.1E-13
R440 (net142 net59) R=0.9E4
C441 (net35 net610) C=5.9E-12
T442 (net377 net170 net170 0) pfet L=0.61E-6 W=6.57E-6
C443 (net159 net14) C=4.6E-7
R444 (net389 net537) R=6.1E6
C445 (net355 net11) C=6.6E-8
T446 (net3 net215 net215 0) pfet L=8.80E-6 W=9.91E-6
R447 (net146 net24) R=8.7E2
R448 (net23 net603) R=9.3E2
T449 (net390 net379 net379 0) nfet L=4.37E-6 W=7.08E-6
T450 (net600 net422 net422 0) pfet L=3.09E-6 W=6.04E-6
T451 (net544 vdd! vdd! 0) pfet L=2.53E-6 W=6.79E-6
T452 (net371 net383 net383 0) pfet L=1.66E-6 W=5.02E-6
R453 (net338 vdd!) R=8.6E2
T454 (vdd! net313 net313 0) nfet L=7.76E-6 W=5.30E-6
T455 (net390 net413 net413 0) nfet L=6.19E-6 W=8.85E-6
T456 (net204 net561 net561 0) nfet L=2.49E-6 W=3.94E-6
T457 (net569 net340 net340 0) nfet L=6.88E-6 W=6.58E-6
C458 (vdd! net30) C=1.9E-5
T459 (net357 net308 net308 0) pfet L=5.70E-6 W=7.32E-6
R460 (net567 net528) R=5.8E0
T461 (net16 net132 net132 0) nfet L=6.65E-6 W=7.43E-6
C462 (net289 net558) C=5.2E-12
T463 (net570 net620 net620 0) pfet L=2.35E-6 W=7.47E-6
C464 (net175 net242) C=8.9E-9
R465 (net621 net58) R=4.0E2
R466 (net17 net376) R=5.2E2
C467 (net42 net258) C=9.6E-13
T468 (net330 net399 net399 0) pfet L=5.96E-6 W=2.31E-6
R469 (net50 net473) R=3.9E0
T470 (vdd! net369 net369 0) pfet L=2.10E-6 W=1.40E-6
T471 (net58 net263 net263 0) pfet L=4.60E-6 W=9.97E-6
C472 (net414 0) C=0.8E-6
T473 (0 net141 net141 0) nfet L=3.38E-6 W=6.72E-6
T474 (net446 net432 net432 0) pfet L=4.70E-6 W=7.37E-6
R475 (net408 net65) R=0.7E2
T476 (net385 net572 net572 0) nfet L=0.89E-6 W=4.53E-6
T477 (net257 net350 net350 0) pfet L=4.96E-6 W=5.64E-6
C478 (net102 net520) C=3.1E-7
C479 (net644 net100) C=5.3E-13
C480 (net312 net187) C=6.5E-14
T481 (net514 net79 net79 0) pfet L=6.78E-6 W=9.40E-6
R482 (net482 net445) R=0.4E2
T483 (net477 net144 net144 0) pfet L=1.85E-6 W=6.10E-6
C484 (net420 net544) C=9.3E-11
T485 (net515 net626 net626 0) pfet L=8.10E-6 W=2.16E-6
T486 (net260 net344 net344 0) pfet L=2.93E-6 W=1.76E-6
R487 (net575 net98) R=3.4E4
C488 (net469 net405) C=2.9E-13
T489 (net209 net413 net413 0) nfet L=3.54E-6 W=0.89E-6
T490 (net527 net606 net606 0) pfet L=7.10E-6 W=5.22E-6
R491 (net507 net438) R=2.9E1
C492 (net320 net388) C=0.5E-12
T493 (net165 net390 net390 0) nfet L=8.92E-6 W=7.61E-6
T494 (net472 net572 net572 0) nfet L=4.24E-6 W=9.78E-6
T495 (net455 0 0 0) pfet L=2.32E-6 W=8.43E-6
T496 (net128 net161 net161 0) nfet L=2.83E-6 W=4.19E-6
T497 (net195 net573 net573 0) pfet L=3.09E-6 W=2.51E-6
T498 (net592 net111 net111 0) nfet L=4.22E-6 W=0.28E-6
T499 (net533 net129 net129 0) pfet L=2.19E-6 W=6.40E-6
C500 (net521 net646) C=5.5E-9
T501 (net158 net93 net93 0) nfet L=6.62E-6 W=0.63E-6
T502 (net223 net638 net638 0) nfet L=4.62E-6 W=7.78E-6
R503 (0 net131) R=9.2E2
R504 (net424 net194) R=6.2E0
C505 (net182 net560) C=4.4E-13
R506 (net193 net296) R=4.6E0
T507 (net570 net201 net201 0) pfet L=5.11E-6 W=0.38E-6
C508 (net242 net113) C=2.7E-13
T509 (net305 net494 net494 0) nfet L=1.22E-6 W=1.08E-6
R510 (net466 net292) R=8.7E0
R511 (net171 net439) R=2.9E0
R512 (net514 vdd!) R=9.8E2
C513 (net371 0) C=4.3E-5
T514 (net302 net405 net405 0) pfet L=1.42E-6 W=3.17E-6
T515 (vdd! net504 net504 0) pfet L=6.24E-6 W=5.14E-6
R516 (net393 net168) R=1.5E2
C517 (net505 net424) C=1.3E-7
R518 (net7 net389) R=0.3E0
R519 (0 net275) R=0.7E4
T520 (net444 net424 net424 0) pfet L=9.77E-6 W=2.39E-6
R521 (net447 net227) R=9.8E6
T522 (net6 net301 net301 0) nfet L=7.77E-6 W=7.06E-6
T523 (net445 net250 net250 0) nfet L=2.01E-6 W=2.26E-6
C524 (net497 net219) C=7.9E-6
C525 (net145 net405) C=0.4E-8
R526 (net228 net126) R=9.9E2
T527 (net406 net648 net648 0) nfet L=0.14E-6 W=8.19E-6
T528 (net97 net17 net17 0) pfet L=9.21E-6 W=8.28E-6
C529 (net47 net124) C=6.8E-14
R530 (net152 net369) R=7.0E0
T531 (net431 net7 net7 0) pfet L=2.22E-6 W=3.43E-6
T532 (net442 net608 net608 0) pfet L=2.02E-6 W=8.09E-6
T533 (net357 net185 net185 0) nfet L=0.23E-6 W=9.77E-6
R534 (net586 net217) R=2.6E0
R535 (net483 net195) R=5.4E3
T536 (net625 net419 net419 0) nfet L=8.90E-6 W=2.44E-6

